.include TSMC_180nm.txt
.param SUPPLY=1.8
*.param LAMBDA=0.09u
*.param width_N={10*LAMBDA}
*.param width_P={2*width_N}
.global gnd vdd
.option scale=0.09u
Vdd vdd gnd 'SUPPLY'

Va a gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vb b gnd PULSE(0 'SUPPLY' 0 0 0 40ns 80ns)


M1000 out a Vdd w_n10_n2# CMOSP w=20 l=2
+  ad=120 pd=52 as=200 ps=100
M1001 out b a_3_n40# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=120 ps=52
M1002 a_3_n40# a gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1003 Vdd b out w_n10_n2# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 b out 0.08fF
C1 out gnd 0.03fF
C2 b a 0.17fF
C3 b Vdd 0.12fF
C4 gnd a_3_n40# 0.21fF
C5 out Vdd 0.47fF
C6 out a_3_n40# 0.21fF
C7 w_n10_n2# b 0.09fF
C8 a Vdd 0.14fF
C9 w_n10_n2# out 0.02fF
C10 w_n10_n2# a 0.09fF
C11 w_n10_n2# Vdd 0.14fF
C12 a_3_n40# Gnd 0.01fF
C13 gnd Gnd 0.11fF
C14 out Gnd 0.11fF
C15 Vdd Gnd 0.03fF
C16 b Gnd 0.25fF
C17 a Gnd 0.17fF
C18 w_n10_n2# Gnd 1.09fF


.tran 10ps 160ns
.control

run
set hcopypscolor = 1 
set color0=white 
set color1=black 
set curplottitle = "2024102053 2NAND"
plot V(a) V(b)+2 V(out)+4


.endc
.end