.include TSMC_180nm.txt
.param SUPPLY=1.8
*.param LAMBDA=0.09u
*.param width_N={10*LAMBDA}
*.param width_P={2*width_N}
.global gnd vdd

Vdd vdd gnd 'SUPPLY'

Va a gnd PULSE(0 'SUPPLY' 0 0 0 10ns 20ns)
Vb b gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vc c gnd PULSE(0 'SUPPLY' 0 0 0 40ns 80ns)


.option scale=0.09u

M1000 Vdd c out w_n9_n37# CMOSP w=20 l=2
+  ad=220 pd=102 as=220 ps=102
M1001 out b Vdd w_n9_n37# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 Vdd a out w_n9_n37# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 gnd c a_12_n82# Gnd CMOSN w=30 l=2
+  ad=150 pd=70 as=180 ps=72
M1004 a_12_n82# b a_4_n82# Gnd CMOSN w=30 l=2
+  ad=0 pd=0 as=180 ps=72
M1005 a_4_n82# a out Gnd CMOSN w=30 l=2
+  ad=0 pd=0 as=150 ps=70
C0 Vdd a 0.10fF
C1 c w_n9_n37# 0.12fF
C2 out w_n9_n37# 0.12fF
C3 Vdd b 0.10fF
C4 out a 0.08fF
C5 w_n9_n37# a 0.12fF
C6 c b 0.28fF
C7 a_12_n82# a_4_n82# 0.31fF
C8 a_12_n82# gnd 0.31fF
C9 out b 0.08fF
C10 Vdd c 0.10fF
C11 w_n9_n37# b 0.12fF
C12 out a_4_n82# 0.31fF
C13 a b 0.28fF
C14 Vdd out 0.73fF
C15 Vdd w_n9_n37# 0.11fF
C16 gnd Gnd 0.12fF
C17 a_12_n82# Gnd 0.01fF
C18 a_4_n82# Gnd 0.01fF
C19 Vdd Gnd 0.03fF
C20 out Gnd 0.15fF
C21 c Gnd 0.10fF
C22 b Gnd 0.10fF
C23 a Gnd 0.10fF
C24 w_n9_n37# Gnd 1.57fF


.tran 10ps 240ns
.control

run
set hcopypscolor = 1 
set color0=white 
set color1=black 
set curplottitle = "2024102053 3NAND"
plot V(a) V(b)+2  V(c)+4 V(out)+8


.endc
.end