.include TSMC_180nm.txt
.param SUPPLY=1.8
*.param LAMBDA=0.09u
*.param width_N={10*LAMBDA}
*.param width_P={2*width_N}
.global gnd vdd

Vdd vdd gnd 'SUPPLY'

Va a gnd PULSE(0 'SUPPLY' 0 0 0 10ns 20ns)
Vb b gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vc c gnd PULSE(0 'SUPPLY' 0 0 0 40ns 80ns)
Vd d gnd PULSE(0 'SUPPLY' 0 0 0 80ns 160ns)


.option scale=0.09u

M1000 Vdd c out w_n8_n40# CMOSP w=20 l=2
+  ad=240 pd=104 as=320 ps=152
M1001 out b Vdd w_n8_n40# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 a_21_n95# c a_13_n95# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=240 ps=92
M1003 Vdd a out w_n8_n40# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 out d Vdd w_n8_n40# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 a_13_n95# b a_5_n95# Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=240 ps=92
M1006 a_5_n95# a out Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=200 ps=90
M1007 gnd d a_21_n95# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=0 ps=0
C0 a out 0.08fF
C1 b Vdd 0.13fF
C2 w_n8_n40# out 0.21fF
C3 a_5_n95# out 0.41fF
C4 w_n8_n40# c 0.14fF
C5 a Vdd 0.13fF
C6 a_21_n95# a_13_n95# 0.41fF
C7 c out 0.08fF
C8 w_n8_n40# Vdd 0.09fF
C9 out Vdd 0.96fF
C10 a_5_n95# a_13_n95# 0.41fF
C11 a b 0.28fF
C12 w_n8_n40# d 0.14fF
C13 c Vdd 0.13fF
C14 w_n8_n40# b 0.14fF
C15 out d 0.08fF
C16 b out 0.08fF
C17 c d 0.28fF
C18 c b 0.28fF
C19 a_21_n95# gnd 0.41fF
C20 a w_n8_n40# 0.14fF
C21 gnd Gnd 0.13fF
C22 a_21_n95# Gnd 0.01fF
C23 a_13_n95# Gnd 0.01fF
C24 a_5_n95# Gnd 0.01fF
C25 Vdd Gnd 0.08fF
C26 out Gnd 0.15fF
C27 d Gnd 0.09fF
C28 c Gnd 0.09fF
C29 b Gnd 0.09fF
C30 a Gnd 0.09fF
C31 w_n8_n40# Gnd 2.07fF


.tran 10ps 480ns
.control

run
set hcopypscolor = 1 
set color0=white 
set color1=black 
set curplottitle = "2024102053 4NAND"
plot V(a) V(b)+2  V(c)+4 V(d)+8 V(out)+10


.endc
.end