.include TSMC_180nm.txt
.param SUPPLY=1.8
*.param LAMBDA=0.09u
*.param width_N={10*LAMBDA}
*.param width_P={2*width_N}
.global gnd vdd

Vdd vdd gnd 'SUPPLY'

Va a gnd PULSE(0 'SUPPLY' 0 0 0 10ns 20ns)
Vb b gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vc c gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vd d gnd PULSE(0 'SUPPLY' 0 0 0 40ns 80ns)
Ve e gnd PULSE(0 'SUPPLY' 0 0 0 80ns 160ns)


.option scale=0.09u

M1000 Vdd b out w_n10_n32# CMOSP w=20 l=2
+  ad=340 pd=154 as=340 ps=154
M1001 out a Vdd w_n10_n32# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 Vdd d out w_n10_n32# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 out e Vdd w_n10_n32# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_19_n96# c a_11_n96# Gnd CMOSN w=50 l=2
+  ad=300 pd=112 as=300 ps=112
M1005 a_11_n96# b a_3_n96# Gnd CMOSN w=50 l=2
+  ad=0 pd=0 as=300 ps=112
M1006 a_3_n96# a out Gnd CMOSN w=50 l=2
+  ad=0 pd=0 as=250 ps=110
M1007 a_27_n96# d a_19_n96# Gnd CMOSN w=50 l=2
+  ad=300 pd=112 as=0 ps=0
M1008 out c Vdd w_n10_n32# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 gnd e a_27_n96# Gnd CMOSN w=50 l=2
+  ad=250 pd=110 as=0 ps=0
C0 b w_n10_n32# 0.12fF
C1 d c 0.27fF
C2 Vdd b 0.10fF
C3 out b 0.08fF
C4 Vdd w_n10_n32# 0.14fF
C5 a_11_n96# a_19_n96# 0.52fF
C6 out w_n10_n32# 0.18fF
C7 e w_n10_n32# 0.12fF
C8 out Vdd 1.24fF
C9 c b 0.27fF
C10 out e 0.08fF
C11 a b 0.27fF
C12 c w_n10_n32# 0.12fF
C13 Vdd c 0.10fF
C14 a w_n10_n32# 0.12fF
C15 a_11_n96# a_3_n96# 0.52fF
C16 out c 0.08fF
C17 Vdd a 0.10fF
C18 a_27_n96# gnd 0.52fF
C19 d w_n10_n32# 0.12fF
C20 Vdd d 0.10fF
C21 out a 0.08fF
C22 out d 0.08fF
C23 e d 0.27fF
C24 out a_3_n96# 0.52fF
C25 a_27_n96# a_19_n96# 0.52fF
C26 gnd Gnd 0.14fF
C27 a_27_n96# Gnd 0.01fF
C28 a_19_n96# Gnd 0.01fF
C29 a_11_n96# Gnd 0.01fF
C30 a_3_n96# Gnd 0.01fF
C31 out Gnd 0.14fF
C32 Vdd Gnd 0.07fF
C33 e Gnd 0.11fF
C34 d Gnd 0.11fF
C35 c Gnd 0.11fF
C36 b Gnd 0.11fF
C37 a Gnd 0.11fF
C38 w_n10_n32# Gnd 2.19fF


.tran 10ps 640ns
.control

run
set hcopypscolor = 1 
set color0=white 
set color1=black 
set curplottitle = "2024102053 5NAND"
plot V(a) V(b)+2  V(c)+4 V(d)+8  V(e)+10 V(out)+12


.endc
.end