.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={10*LAMBDA}
.param width_P={2*width_N}
.global gnd vdd

Vdd vdd gnd 'SUPPLY'

Va a gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vb b gnd 1.8


M1 out a vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M2 out b vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}


M3 out a gnd gnd CMOSN W={width_N*2} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA*2} PS={10*LAMBDA+2*width_N*2} 
+ AD={5*width_N*LAMBDA*2} PD={10*LAMBDA+2*width_N*2}

M4 out b gnd gnd CMOSN W={width_N*2} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA*2} PS={10*LAMBDA+2*width_N*2} 
+ AD={5*width_N*LAMBDA*2} PD={10*LAMBDA+2*width_N*2}


.tran 0.1ns 160ns
.control
run
plot V(a) V(b)+2 V(out)+4


.endc
.end