.include TSMC_180nm.txt
.param SUPPLY=1.8
*.param LAMBDA=0.09u
*.param width_N={10*LAMBDA}
*.param width_P={2*width_N}
.global gnd vdd
.option scale=0.09u
Vdd vdd gnd 'SUPPLY'

Va a gnd PULSE(0 'SUPPLY' 0 0 0 20ns 40ns)
Vb b gnd PULSE(0 'SUPPLY' 0 0 0 40ns 80ns)


M1000 inverter1_0/out a gnd Gnd CMOSN w=10 l=2
+  ad=70 pd=34 as=171 ps=95
M1001 inverter1_0/out a Vdd inverter1_0/w_n19_78# CMOSP w=20 l=2
+  ad=140 pd=54 as=288 ps=128
M1002 inverter1_1/out b gnd Gnd CMOSN w=10 l=2
+  ad=70 pd=34 as=0 ps=0
M1003 inverter1_1/out b Vdd inverter1_1/w_n19_78# CMOSP w=20 l=2
+  ad=140 pd=54 as=0 ps=0
M1004 out inverter1_0/out a_79_14# w_118_6# CMOSP w=20 l=2
+  ad=120 pd=52 as=320 ps=152
M1005 a_79_14# a Vdd w_66_6# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 a_79_n18# a gnd Gnd CMOSN w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1007 a_131_n18# inverter1_0/out out Gnd CMOSN w=10 l=2
+  ad=60 pd=32 as=100 ps=60
M1008 a_79_14# inverter1_1/out out w_118_6# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 Vdd b a_79_14# w_66_6# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 out b a_79_n18# Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 gnd inverter1_1/out a_131_n18# Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0


.tran 10ps 160ns
.control
run
set hcopypscolor = 1 
set color0=white 
set color1=black 
set curplottitle = "2024102053 2XOR"
plot V(a) V(b)+2 V(out)+4
plot V(a) V(b)+2 V(out)+4


.endc
.end